US06013663
[5-(1,2-Dithiolan-3-yl)pentyl]urea (Compound No. 1-1993)
2 ml of methanol and 2 ml of butylamine were added to a solution of 1:6 mmol of 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione in 3 ml of toluene. The resulting mixture was stirred at room temperature for 5 hours and 30 minutes. The reaction mixture was then allowed to stand overnight at room temperature. At the end of this time, the solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the resulting residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. 5 ml of tetrahydrofuran were added to the residue. 0.32 ml of trimethylsilyl isocyanate was then added dropwise to the resulting mixture, whilst ice-cooling, and then the mixture was stirred at room temperature for 3 hours and 30 minutes. At the end of this time, the solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure and the residue was subjected to silica gel column chromatography, using 1:0 and 5:1 by volume mixtures of ethyl acetate and methanol as eluent. The solvent was removed from the eluate by distillation under reduced pressure. The residue was recrystallized from ethyl acetate, to give 80 mg of the title compound as yellow crystals, melting at 74 to 78° C.

reactant | methanol | 2 ml | CO | CH4O
reactant | butylamine | 2 ml | C(CCC)N | C4H11N
reactant | 2-[5-(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione | 6 mmol | S1SC(CC1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C16H19NO2S2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | [5-(1,2-Dithiolan-3-yl)pentyl]urea | 80 mg | S1SC(CC1)CCCCCNC(=O)N | C9H18N2OS2
